US04629734
Trans-6-cyano-4-formylamino-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-3-yl formate
Trans-4-amino-6-cyano-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-3-ol *(0.90 g) was heated under reflux in formic acid (15 ml) and pyridine (1 ml) during 19 hr. The cooled solutions was poured into water and extracted with ethyl acetate. The organic layer was washed with water and dried over anhydrous magnesium sulphate. Filtration and evaporation left an orange coloured oil which was chromatographed (chromatotron, ethyl acetate-pentane gradient elution on 2 mm silica gel, flow rate 9 ml/min) to give after recrystallisation from ethyl acetate-pentane the title compound (0.15 g) as crystals of m.p. 171°-172° C.

reactant | Trans-4-amino-6-cyano-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-3-ol | N[C@H]1[C@@H](C(OC2=C1C=C(C=C2)C#N)(C)C)O | C12H14N2O2
reactant | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
reactant | water | O | H2O
reactant | formic acid | 15 ml | C(=O)O | CH2O2
product | Trans-6-cyano-4-formylamino-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-3-yl formate | C(=O)O[C@@H]1C(OC2=C([C@H]1NC=O)C=C(C=C2)C#N)(C)C | C14H14N2O4
